US08541448B2
Intermediate 30.7: 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenamine
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)acetamide (2 g, 5.73 mmol, 1.00 equiv) in ethanol (20 mL). This was followed by the addition of sodium methanolate (5 g, 92.59 mmol, 16.16 equiv) in several batches, while the temperature was maintained at reflux. The resulting solution was heated to reflux overnight. The reaction was then quenched by the addition of 50 mL of water/ice. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined and concentrated under vacuum. This resulted in 1.5 g (85%) of 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenamine as yellow oil. 1H-NMR (300 MHz, DMSO, ppm): δ 7.42-7.42 (1H, d, J=1.5 Hz), 6.83-6.86 (2H, d, J=8.1 Hz), 6.78-6.78 (1H, d, J=1.2 Hz), 6.48-6.51 (2H, d, J=8.4 Hz), 4.98 (2H, s), 4.02-4.06 (1H, m), 3.62-3.67 (1H, d, J=16.2 Hz), 3.43-3.48 (1H, d, J=15.9 Hz), 2.80-2.86 (1H, m), 2.37 (3H, s). MS (ES, m/z): 307 [M+H]+.

reactant | N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)acetamide | 5.73 mmol, 2 g, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(C)=O | C18H18Cl2N2O
reactant | sodium methanolate | 92.59 mmol, 5 g, 16.16 equiv | C[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenamine | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)N | C16H16Cl2N2
